US04082912
7-[o-(N-Butoxycarbonyl-N-methylaminomethyl)phenylacetamido]-3-[2-(2-carboxyethyl)-2,3-dihydro-s-triazolo[4,3-b]pyridazin-3-on-6-ylthiomethyl]-3-cephem-4-carboxylic acid
To a mixture of 7-amino-3-[2-(2-carboxyethyl)-2,3-dihydro-s-triazolo[4,3-b]pyridazin-3-on-6-ylthiomethyl]-3-cephem-4-carboxylic acid (452 mg., 1 m.mole) and triethylamine (0.46 ml., 3.3 m.mole) in 50% aqueous acetonitrile (4 ml.) was added a THF solution (3ml.) of 2,4-dinitrophenyl o-(N-t-butoxycarbonyl-N-methylaminomethyl)phenylacetate prepared from o-(N-t-butoxycarbonyl-N-methylaminomethyl)phenylacetic acid (283 mg., 1.1 m.mole), 2,4-dinitrophenol (202 mg., 1.1 m.mole) and DCC (227 mg., 1.1 m.mole). The mixture was stirred at room temperature overnight and concentrated under reduced pressure to remove the organic solvents. The aqueous concentrate was washed with ether (3 × 20 ml.), acidified with c.HCl to pH 1 - 2 and extracted with ethyl acetate (5 × 20 ml.). The combined extracts were dried with anhydrous Na2SO4 and evaporated to dryness. The residue was chromatographed on a column of silica gel (Wako gel, C-200, 10 g.) by eluting with a mixture of MeOH-- CHCl3 (MeOH: 0 to 3%). The combined eluates which contained the desired product were evaporated to give 359 mg. (50%) of the title compound. M.P. > 150° C. (dec.).

reactant | 7-amino-3-[2-(2-carboxyethyl)-2,3-dihydro-s-triazolo[4,3-b]pyridazin-3-on-6-ylthiomethyl]-3-cephem-4-carboxylic acid | 452 mg | NC1[C@@H]2N(C(=C(CS2)CSC=2C=CC=3N(N2)C(N(N3)CCC(=O)O)=O)C(=O)O)C1=O | C16H16N6O6S2
reactant | 2,4-dinitrophenyl o-(N-t-butoxycarbonyl-N-methylaminomethyl)phenylacetate | C(C)(C)(C)OC(=O)N(C)CC1=C(C=CC=C1)CC(=O)OC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C21H23N3O8
reactant | o-(N-t-butoxycarbonyl-N-methylaminomethyl)phenylacetic acid | 283 mg | C(C)(C)(C)OC(=O)N(C)CC1=C(C=CC=C1)CC(=O)O | C15H21NO4
reactant | 2,4-dinitrophenol | 202 mg | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
reactant | DCC | 227 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | THF | 3ml | C1CCOC1 | C4H8O
solvent | triethylamine | 0.46 ml | C(C)N(CC)CC | C6H15N
product | 7-[o-(N-Butoxycarbonyl-N-methylaminomethyl)phenylacetamido]-3-[2-(2-carboxyethyl)-2,3-dihydro-s-triazolo[4,3-b]pyridazin-3-on-6-ylthiomethyl]-3-cephem-4-carboxylic acid | 50% | C(CCC)OC(=O)N(C)CC1=C(C=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2C=CC=3N(N2)C(N(N3)CCC(=O)O)=O)C(=O)O)C1=O | C31H35N7O9S2
